US05053509
A solution of ethyl 2-(2-chloro-6,7-difluoro-3-quinolinecarbonyl)-3-(dimethylamino)acrylate (20 g) and cyclopropylamine (9.25 g) in trichloromethane (80 cc) is stirred at a temperature in the region of 20° C. for 5 hours. The solution is concentrated under reduced pressure (20 kPa) at approximately 40° C. The residue is taken up in ethanol (300 cc), treated with DBU (8.2 g) and heated with stirring to approximately 75° C. for 30 minutes. After cooling to approximately 20° C., the insoluble matter is drained and washed with ethanol (2×30 cc). 1-Cyclopropyl-3-ethoxycarbonyl-7,8-difluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine (11.1 g) is obtained in the form of a yellow solid, m.p. 230° C.

reactant | ethyl 2-(2-chloro-6,7-difluoro-3-quinolinecarbonyl)-3-(dimethylamino)acrylate | 20 g | ClC1=NC2=CC(=C(C=C2C=C1C(=O)C(C(=O)OCC)=CN(C)C)F)F | C17H15ClF2N2O3
reactant | cyclopropylamine | 9.25 g | C1(CC1)N | C3H7N
solvent | trichloromethane | 80 cc | ClC(Cl)Cl | CHCl3
product | 1-Cyclopropyl-3-ethoxycarbonyl-7,8-difluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine | 11.1 g | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C=C(C(=C3)F)F)=O)C(=O)OCC | C18H14F2N2O3
